US06420410B1
(C.) 1-Benzyl-3-hydrobenzimidazol-2-one
[N-(2-Aminophenyl)]-benzylamine (15.1 mmol, 3.0 g) in dichloromethane (80 ml) is charged with triphosgene (5.3 mmol, 1.57 g) in dichloromethane (40 ml) and is stirred at room temperature over the weekend. The suspension is poured into water (100 g) and is extracted with dichloromethane (2×50 ml). The organic layer is a suspension The colorless solid is filtered off, is dried in vacuo and is recrystallized from ethyl acetate to give the title product (81%)(R1=H, R2=benzyl, n=0).

reactant | [N-(2-Aminophenyl)]-benzylamine | 15.1 mmol, 3.0 g | NC1=C(C=CC=C1)NCC1=CC=CC=C1 | C13H14N2
reactant | triphosgene | 5.3 mmol, 1.57 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | water | 100 g | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-Benzyl-3-hydrobenzimidazol-2-one | 81% | C1=CC=C(C=C1)CN2C3=CC=CC=C3NC2=O | C14H12N2O
